US06043358
To a stirring solution of methyl cuprate in dimethylsulfide (prepared from 1.05 g copper (I) iodide/4.0 mL dimethylsulfide and 4.0 mL methyllithium/ether at -78° C.) at -78° C. was added a solution of 2,3-dihydrothiopyran-4-one-3-carboxylic acid, allyl ester (0.910 g, 4.6 mmol) in dimethylsulfide (5 mL). The resulting yellow-colored solution was stirred for 30 min. at the same temperature. The reaction mixture was quenched with a saturated solution of ammonium chloride and ammonia solution and then warmed to room temperature for and 1 h. The reaction mixture was added to ether (100 mL) and the etheral layer washed with saturated sodium chloride solution and dried over anhydrous magnesium sulfate. The solvent was evaporated and the product purified by flash column chromatography on silica gel eluted with hexane:ether (4:1) to give 2-methyl-tetrahydrothiopyran-4-one-3-carboxylic acid, allyl ester (0.794 g) as a 7:3 mixture of enol:keto tautomers.

reactant | 2,3-dihydrothiopyran-4-one-3-carboxylic acid | S1CC(C(C=C1)=O)C(=O)O | C6H6O3S
reactant | dimethylsulfide | 4.0 mL, 1.05 g | CSC | C2H6S
reactant | dimethylsulfide | 5 mL | CSC | C2H6S
product | 2-methyl-tetrahydrothiopyran-4-one-3-carboxylic acid | CC1SCCC(C1C(=O)O)=O | C7H10O3S
